* BLOCKER 5: Noise — Ch4 f0=7235.8Hz (positive path only, x sqrt2)
.lib "../01_ota/sky130_minimal.lib.spice" tt
.include "../01_ota/ota_foldcasc.spice"
.include "pseudo_res.spice"

Vdd vdd 0 dc 1.8
Vcm vcm 0 dc 0.9

Vvbn vbn 0 dc 0.6399
Vvbp vbp 0 dc 0.745
Vvbcn vbcn 0 dc 0.8699
Vvbcp vbcp 0 dc 0.49

* AC input for noise analysis
Vinp vinp 0 dc 0.9 ac 0
Vinn vinn 0 dc 0.9 ac 0


* Positive path
Xota1p vinp int2p int1p vdd 0 vbn vbcn vbp vbcp ota_foldcasc
C1p int1p 0 59.0p
Xpr1p int1p vcm pseudo_res
Xota2p int1p vcm int2p vdd 0 vbn vbcn vbp vbcp ota_foldcasc
C2p int2p 0 29.7p
Xpr2p int2p vcm pseudo_res
Xota3p vcm int1p int1p vdd 0 vbn vbcn vbp vbcp ota_foldcasc

* Negative path
Xota1n vinn int2n int1n vdd 0 vbn vbcn vbp vbcp ota_foldcasc
C1n int1n 0 59.0p
Xpr1n int1n vcm pseudo_res
Xota2n int1n vcm int2n vdd 0 vbn vbcn vbp vbcp ota_foldcasc
C2n int2n 0 29.7p
Xpr2n int2n vcm pseudo_res
Xota3n vcm int1n int1n vdd 0 vbn vbcn vbp vbcp ota_foldcasc


* Diff-to-single via VCVS for noise measurement
Ediff ndiff 0 int1p int1n 1.0
Rdiff ndiff 0 1G

.nodeset v(int1p)=0.9 v(int2p)=0.9
+ v(int1n)=0.9 v(int2n)=0.9

.control
op
noise v(ndiff) Vinp dec 50 1 100k
setplot noise2
print onoise_total
.endc
.end
