* TB1: AC Sweep — Channel 4 (5-10 kHz, f0=7071 Hz, Q=1.41)
.include bpf_ch4.spice

Vdd vdd 0 1.8
Vss vss 0 0
Vcm vcm 0 0.9
Vin in 0 DC 0.9 AC 1

Xbpf in bp_out vdd vss vcm bpf_ch4

.control
ac dec 500 1 200k
wrdata ac_ch4.txt v(bp_out)
.endc
.end
