* TB1: AC Sweep — Channel 5 with REAL SKY130 OTA
.lib "../01_ota/sky130_minimal.lib.spice" tt
.include "../01_ota/ota_foldcasc.spice"
.include "bpf_ch5_real.spice"
Vdd vdd 0 dc 1.8
Vbn vbn 0 dc 0.565
Vbcn vbcn 0 dc 0.795
Vbp vbp 0 dc 0.860
Vbcp vbcp 0 dc 0.605
Vcm vcm 0 dc 0.9
Vss vss 0 dc 0
Vin in 0 dc 0.9 ac 1
Xbpf in bp_out vdd vss vcm vbn vbcn vbp vbcp bpf_ch5_real
.nodeset v(xbpf.int1)=0.9 v(xbpf.int2)=0.9
.control
op
let isup = -i(vdd)
echo "Ch5 Isupply:"
print isup
ac dec 200 1 200k
wrdata ac_real_ch5.txt vdb(bp_out)
.endc
.end
